US08227615B2
Step c: tert-Butyl 3-(2-amino-5-methylpyridin-4-yl)benzoate
4-(3-(tert-Butoxycarbonyl)phenyl)-3-methylpyridine 1-oxide (0.467 g, 1.64 mmol) was dissolved in a mixture of pyridine (0.53 mL) and acetonitrile (15 mL) under an atmosphere of argon. 4-Methylbenzene-1-sulfonyl chloride (0.406 g, 2.13 mmol) was added and the reaction mixture was stirred at 75° C. for 72 hours. Ethanolamine (7 mL) was then added and the reaction mixture was allowed to stir for 5 minutes at room temperature. The crude product was partitioned between dichloromethane and a saturated aqueous solution of sodium bicarbonate. The layers were separated and the organic layer was washed with a saturated aqueous solution of sodium chloride. The organic layer was dried over sodium sulfate and then purified on 40 g of silca gel utilizing a gradient of 0-100% ethyl acetate in hexanes to yield the pure product (0.169 g, 0.594 mmol, 36.3%). ESI-MS m/z calc. 284.2, found 285.1 (M+1)+. Retention time of 1.28 minutes. 1H NMR (400.0 MHz, DMSO-d6) δ 7.94-7.91 (m, 1H), 7.84 (s, 1H), 7.79 (d, J=1.7 Hz, 1H), 7.62-7.56 (m, 2H), 6.33 (s, 1H), 5.78 (s, 2H), 1.99 (s, 3H), 1.55 (s, 9H).

reactant | 4-(3-(tert-Butoxycarbonyl)phenyl)-3-methylpyridine 1-oxide | 1.64 mmol, 0.467 g | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C1=C(C=[N+](C=C1)[O-])C | C17H19NO3
reactant | 4-Methylbenzene-1-sulfonyl chloride | 2.13 mmol, 0.406 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | Ethanolamine | 7 mL | C(O)CN | C2H7NO
solvent | pyridine | 0.53 mL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | tert-Butyl 3-(2-amino-5-methylpyridin-4-yl)benzoate | 0.594 mmol, 0.169 g, 36.3% | NC1=NC=C(C(=C1)C=1C=C(C(=O)OC(C)(C)C)C=CC1)C | C17H20N2O2
